US06642229B2
3-Bromoimidazo[1,2-a]pyrimidin-7-ylmethanol (912 mg, 4.00 mmol) was dissolved in dichloromethane (10 ml) and treated with imidazole (0.70 g, 10.3 mmol) and tert-butyldimethylsilyl chloride (0.77 g, 5.1 mmol) and the mixture left to stir at ambient temperature for 1 h. The reaction was diluted with dichloromethane (75 ml) and washed with 0.01N hydrochloric acid (2×50 ml). The organic phase was washed with saturated sodium hydrogencarbonate solution (50 ml), water (50 ml) and brine (50 ml), dried over anhydrous magnesium sulfate, filtered and evaporated to give crude 3-bromo-7-(tert-butyldimethylsilanyloxymethyl)imidazo[1,2-a]pyrimidine (1.37 g, 100%) as a yellow solid.

reactant | 3-Bromoimidazo[1,2-a]pyrimidin-7-ylmethanol | 4.00 mmol, 912 mg | BrC1=CN=C2N1C=CC(=N2)CO | C7H6BrN3O
reactant | imidazole | 10.3 mmol, 0.70 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 5.1 mmol, 0.77 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 3-bromo-7-(tert-butyldimethylsilanyloxymethyl)imidazo[1,2-a]pyrimidine | 1.37 g, 100% | BrC1=CN=C2N1C=CC(=N2)CO[Si](C)(C)C(C)(C)C | C13H20BrN3OSi
